US06100421
To 40 ml methanol, was added 28% methanol solution of sodium methylate in an amount of 5.4 g and the resulting mixture was then fed dropwise with 2-nitropropane in an amount of 2.5 g at an ambient temperature. Then, the mixture was further added with methyl 3-bromomethyl-2-chloro-4-methoxybenzoate in an amount of 7.5 g and stirred for an hour under reflux and heating. After cooling the mixture, the reacted-mixture was added with 100 ml 1N-hydrochloric acid and then extracted with ethyl acetate. The ethyl acetate layer obtained was washed with saturated saline solution and dried with anhydrous magnesium sulfate. The solvent remained in the layer was condensed under reduced pressure to obtain crystals. The crystals obtained were then washed with ethyl ether to obtain methyl 2-chloro-3-formyl-4-methoxybenzoate in an amount of 3.1 g in crystalline form. The yield was 54%.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2-nitropropane | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | methyl 3-bromomethyl-2-chloro-4-methoxybenzoate | BrCC=1C(=C(C(=O)OC)C=CC1OC)Cl | C10H10BrClO3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | methyl 2-chloro-3-formyl-4-methoxybenzoate | yield was 54% | ClC1=C(C(=O)OC)C=CC(=C1C=O)OC | C10H9ClO4
